US05532397
Chloromethyl-dimethyl-4-fluorobenzylsilane (2.01 g, 9.33 mmol) and potassium phthalimide (1.90 g), 10.27 mmol) were heated in dry dimethylformamide (30 ml) at 70° C. for 5 hours and then the mixture was poured into water and extracted with ether. The ether solution was washed with water, brine, dried and evaporated. Chromatography (silica gel, ether/hexane--20/80) afforded N[(dimethyl-4-fluorobenzylsilyl)methyl]phthalimide as a white powder (2.90 g, 95% yield) 1H NMR (CDCl3, TMS) δ: 0.20 (s,6H), 2.25 (s,2H), 3.27 (s,2H), 6.83-7.13 (m,4H), 7.67-7.97 (m,4H).

reactant | Chloromethyl-dimethyl-4-fluorobenzylsilane | 9.33 mmol, 2.01 g | ClC[Si](CC1=CC=C(C=C1)F)(C)C | C10H14ClFSi
reactant | potassium phthalimide | 1.90 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
reactant | ether hexane | CCOCC.CCCCCC
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N[(dimethyl-4-fluorobenzylsilyl)methyl]phthalimide | 2.90 g, 95% yield | C[Si](CC1=CC=C(C=C1)F)(C)CN1C(C=2C(C1=O)=CC=CC2)=O | C18H18FNO2Si
